US06417212B1
C. 2-Methyl-2-(4-{2-[5-methyl-2-(4-pyrimidin-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid
Under nitrogen, 2-methyl-2-(4-{2-[5-methyl-2-(4-pyrimidin-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester (0.53 mmol) in ethanol (2.5 mL) and THF (2.5 mL) was treated with 2.0 N NaOH (2.0 mL). The reaction mixture was stirred at 55° C. for 1 h and concentrated in vacuo. The resulting slurry was suspended in ethyl acetate, acidified to pH 1 with 1N HCl, and partitioned. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo to yield the desired product. 1H NMR (400 MHz, CDCl3) δ8.76 (d, 1H), 8.45 (d, 2H), 8.06 (d, 2H), 7.15 (t, 2H), 6.76 (d, 2H), 6.71 (d, 2H), 4.14 (t, 2H), 2.93 (t, 2H), 2.33 (s, 3H), 1.45 (s, 6H); MS (EI) 460.3 (M+H)+.

reactant | 2-methyl-2-(4-{2-[5-methyl-2-(4-pyrimidin-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | 0.53 mmol | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=NC=CC=N1)C)=O | C28H29N3O5
reactant | NaOH | 2.0 N, 2.0 mL | [OH-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-(4-{2-[5-methyl-2-(4-pyrimidin-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=NC=CC=N1 | C26H25N3O5
